OpenCircuit factory test: forward_02.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603406425536143360
* Revision: Rev.-2.0
.model OC_YONGYUTAI_CD4148WSP D(IS=1.7528431166e-9 N=1.8000000000e0 RS=1.0000000000e-4)

.temp 2.5000000000e1
Itest 0 anode DC 1.0000000000e-2
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_YONGYUTAI_CD4148WSP
.op
.end
